US07842688B2
a) tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-(2-oxo-2,3,4,5-tetrahydro-1H-benzo[b]azepin-9-ylmethoxy)piperidine-1-carboxylate
A solution of 0.345 g of tert-butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-(2-oxo-1-(2-trimethylsilanylethoxymethyl)-2,3,4,5-tetrahydro-1H-benzo[b]azepin-9-ylmethoxy)piperidine-1-carboxylate in 4 ml of tetrahydrofuran is admixed with 0.85 ml of a 1M solution of tetrabutylammonium fluoride in tetrahydrofuran. The reaction solution is heated to reflux over 4 hours. A further 0.85 ml of tetrabutylammonium fluoride solution is added and the reaction solution is subsequently heated to reflux over a further 20 hours. The reaction solution is cooled and admixed with 50 ml each of water and tert-butyl methyl ether. The aqueous phase is removed and extracted with 40 ml of tert-butyl methyl ether. The combined organic phases are washed with 40 ml of brine, dried over sodium sulphate, filtered and concentrated to dryness. The title compound is obtained as a yellow oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.25 (3:1 EtOAc-heptane); Rt=4.34.

reactant | tert-butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-(2-oxo-1-(2-trimethylsilanylethoxymethyl)-2,3,4,5-tetrahydro-1H-benzo[b]azepin-9-ylmethoxy)piperidine-1-carboxylate | 0.345 g | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC2=CC=CC3=C2N(C(CCC3)=O)COCC[Si](C)(C)C)C=CC=C1 | C44H62N2O8Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrabutylammonium fluoride | 0.85 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | 50 ml | O | H2O
reactant | tert-butyl methyl ether | COC(C)(C)C | C5H12O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-(2-oxo-2,3,4,5-tetrahydro-1H-benzo[b]azepin-9-ylmethoxy)piperidine-1-carboxylate | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC2=CC=CC3=C2NC(CCC3)=O)C=CC=C1 | C38H48N2O7
